US06818631B1
2-(Pyridin-2-yl)-6-trifluoromethyl-3H-pyrimidin-4-one (15.0 g) was dissolved in DMP (150 ml) and N-iodosuccinimide (33.6 g) was added at room temperature with stirring. The mixture was stirred under heating (130-135° C.) for 6 hr. and then cooled to room temperature. The reaction mixture was added ethyl acetate (150 ml), and then washed with aqueous sodium thiosulfate, water and brine, respectively. The ethyl acetate layer was dried over magnesium sulfate and the solvent was removed under reduced pressure to give crude 5-iodo-2-(pyridine-2-yl)-6-trifluoromethyl-3H-pyrimidin-4-one. It was recrystallized from toluene as pale brown needles (10.2 g), mp 186-187° C.

reactant | 2-(Pyridin-2-yl)-6-trifluoromethyl-3H-pyrimidin-4-one | 15.0 g | N1=C(C=CC=C1)C1=NC(=CC(N1)=O)C(F)(F)F | C10H6F3N3O
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
reactant | N-iodosuccinimide | 33.6 g | IN1C(CCC1=O)=O | C4H4INO2
product | 5-iodo-2-(pyridine-2-yl)-6-trifluoromethyl-3H-pyrimidin-4-one | IC=1C(NC(=NC1C(F)(F)F)C1=NC=CC=C1)=O | C10H5F3IN3O
